US05446157
Ethyl 3,5-dimethyl-4-n-propylpyrrole-2-carboxylate 4d.
A solution of sodiumnitrite (28.2 g, 0.41 mol) in water (100 ml) was added to a stirred cold solution of ethyl acetoacetate (49.4 g, 0.38 mol) in acetic acid as the temperature was held below 15° C. After the solution was stirred and stored overnight at 25° C., 3-n-propyl-2,4-pentanedione (53.7 g, 0.38 mol) and zinc (53 g) were sequentially added and the mixture was stored at 60° C. for 1 h. Dilution with water brought about the precipitation of ethyl 3,5-dimethyl-4-n-propylpyrrole-2-carboxylate 4d as a yellow solid, 22.4 g (29%), mp 98°-99° C. (lit. mp 99°-99.5° C.) after recrystallization from ethanol; 1HNMR (CDCl3): δ 9.3 (s, 1H), 4.25 (q, 2H), 2.25 (t, 2H), 2.24 (s,3H), 2.1s (s, 3H), 1.41 (m, 2H), 1.30 (t, 3H), 0.90 (t, 3H). The procedure was extended to the conversions of (a) 3-n-butyl-2,4-pentanedione to ethyl3,5-dimethyl-4-n-butylpyrrole-2-carboxylate 4e, a yellow solid, 32%, mp 99°-100° C. (lit. mp 99° C.), 1H NMR (CDCl3): δ 9.35 (S, 1H), 4.27 (q, 2H), 2.50 (t, 2H), 2.25 (s, 3H), 2.15 (s, 3H), 1.40 (m, 4H), 1.31 (t, 3H), and 0.91 (t, 3H); (b) 3-isopropyl-2,4-pentanedione to ethyl 3,5-dimethyl -4-isopropylpyrrole-2-carboxylate 4f , 20%, mp 104°-106° C. (lit. mp 105°-106.5° C.); and (c) 2-acetylcyclohexanone to ethyl 3-methyl-4,5,6,7-tetrahydroinadole-2-carboxylate 4i, 50%, mp 111°-113° C. (lit. 110° C.), 1H NMR (CDCl3): δ 9.03 (s, 1H), 4.25 (q, 2H), 2.41 (m, 4H), 2.21 (s, 3H), 1.65 (m, 4H), 1.30 (t, 3H).

reactant | sodiumnitrite | 0.41 mol, 28.2 g | N(=O)[O-].[Na+]
reactant | ethyl acetoacetate | 0.38 mol, 49.4 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 3-n-propyl-2,4-pentanedione | 0.38 mol, 53.7 g | C(CC)C(C(C)=O)C(C)=O | C8H14O2
solvent | water | 100 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | zinc | 53 g | [Zn] | Zn
product | Ethyl 3,5-dimethyl-4-n-propylpyrrole-2-carboxylate | CC1=C(NC(=C1CCC)C)C(=O)OCC | C12H19NO2
